Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
anesthesia
 
Attending: ___.
 
Chief Complaint:
LBP, osteomyelitis
 
Major Surgical or Invasive Procedure:
Drainage of superficial fluid collection ___

 
History of Present Illness:
___ yo F, hx of opioid use disorder w/IVDU now on suboxone, RA on
daily prednisone, chronic pain syndrome, COPD, hx malignant
hyperthermia, recurrent spinal infections, now transferred from
OSH with abnormal MRI and bilateral lower extremity neurologic
symptoms. Leukocytosis to 14.5, but currently afebrile,
hemodynamically stable, lactate WNL.

Patient initially diagnosed at ___) in ___ with MRSA bacteremia and L2
epidural abscess. Completed course of IV vancomycin followed by
PO Bactrim. Antibiotics completed ___, but patient had
persistent LBP and re-presented. Found to have L2-L3
osteomyelitis/discitis, and paravertebral abscesses, transferred
to ___ on ___. Underwent open reduction/I&D of L2 and L3
fractures, L3 laminectomy, T11-L5 arthrodesis, and L5-S1 
metallic
disc prosthesis. Cx grew MRSA. During this admission, TTE was
initially c/f possible tricuspid vegetation, but TEE was
negative. Per ID rec, discharge with ___ (placed ___ on
vancomycin, following with OPAT. 

Vancomycin completed on ___, patient reports continuing Bactrim
DS after this. Patient subsequently developed worsening LBP,
bilateral paresthesias in posterior lower extremities, and 
marked
weakness. Denies bladder/bowel incontinence, numbness, fevers,
chills, light-headedness, dizziness, or other new symptoms.
Presented to ___, found on MRI to have L2-L3 discitis along with
a lumbar fusion from T12-L5. Patient was transferred to ___ 
for
further management.

In the ED, patient remained afebrile, hemodynamically stable.
Labs notable for WBC 14.5, creatinine 0.9 (baseline 0.5-0.6),
lactate 1.8. Started on IV vancomycin per ID rec. Evaluated by
___, does not need surgical intervention at this time. Admitted
to medicine for IV antibiotics.

On arrival to the floor, patient reports improvement of her LBP
in past day since getting IV vancomycin and pain medications.
Pain is localized to base of spine and bilateral paraspinal
areas. Radiates down bilateral lower extremities, although
currently only having L-sided symptoms. Denies fevers, chills,
light-headedness, dizziness, SOB, cough, CP, abdominal pain,
n/v/d. Patient reports not taking bowel regimen at home but has
continued to have regular BM.

 
Past Medical History:
ID History:
- Admission to ___ ___ for MRSA 
bacteremia and L2 epidural abscess s/p vancomycin treatment 
followed by TMP-SM, ending ___
- Re-admission to ___ ___ for persistent 
back pain, imaging with worsening paravertebral abscesses and 
L2/L3 osteo/dicitis -> transfer to ___. She is s/p open 
reduction/I&D of L2 and L3 fractures, L3 laminectomy, T11-L5 
arthrodesis, and L5-S1 metallic disc prosthesis on ___. No 
vegetation on TEE. Maintained on vancomycin monotherapy until 
___ and then switched to oral TMP-SMX. Rifampin was not started 
due to transaminitis, possible cirrhosis. 
- Re-presentation to ___ ___, found to have 
L2-L3 discitis and transferred to ___

Other Past Medical History:
COPD, malignant hyperthermia, RA, chronic pain syndrome, anxiety
history of IVDU
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
___ 1846 Temp: 98.4 PO BP: 107/76 HR: 91 RR: 18 O2 sat: 96%
O2 delivery: ra 
GENERAL: WDWN adult woman sitting in bed in NAD
HEENT: NCAT, sclerae anicteric, normal conjunctivae, PERRL, 
EOMI,
oropharynx clear, MMM
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, no increased work of breathing
BACK: Mid-line surgical incision appearing clean, dry. Mild
tenderness in lumbar spine and bilateral paraspinal areas. No
rash.
ABDOMEN: Soft, non-tender, non-distended, normoactive BS
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
NEUROLOGIC: AOx3. CN2-12 intact. Strength ___ in upper and lower
extremities bilaterally, sensation intact throughout. 

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 0731)
    Temp: 97.7 BP: 166/94 (129-166/77-94), HR: 70 (69-108), RR:
18, O2 sat: 98% (94-99), O2 delivery: RA  
General: Well-appearing woman, lying in bed comfortably,
in NAD
HEENT: NC/AT, EOMI, anicteric sclera, MMM
Resp: Clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: Regular rate and rhythm, normal S1/S2, no murmurs, rubs,
gallops  
GI: Soft, non-tender, non-distended, bowel sounds present
Back: Surgical incision on back appears largely well healed, but
does have approx. 2cm area in distal half of incision that has
opened, no longer expressing purulent discharge, covered with
gauze and tape. No significant erythema, warmth, or tenderness. 
Ext: No cyanosis, clubbing, or edema    
Neuro: Alert, oriented x3, moving all extremities with purpose

 
Pertinent Results:
LABS ON ADMISSION:
===================
___ 08:10AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 08:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM*
___ 08:10AM URINE  RBC-4* WBC-33* BACTERIA-NONE YEAST-NONE 
EPI-2
___ 08:10AM URINE  MUCOUS-RARE*
___ 06:08AM   ___ COMMENTS-GREEN TOP
___ 06:08AM   LACTATE-1.8
___ 05:00AM   GLUCOSE-70 UREA N-17 CREAT-0.9 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-100 TOTAL CO2-23 ANION GAP-16
___ 05:00AM   estGFR-Using this
___ 05:00AM   ALT(SGPT)-100* AST(SGOT)-108* LD(LDH)-334* 
ALK PHOS-107* TOT BILI-0.4
___ 05:00AM   ALBUMIN-3.4*
___ 05:00AM   CRP-132.1*
___ 05:00AM   WBC-14.5* RBC-4.89 HGB-13.6 HCT-43.8 MCV-90 
MCH-27.8 MCHC-31.1* RDW-15.2 RDWSD-49.2*
___ 05:00AM   NEUTS-79.0* LYMPHS-15.8* MONOS-2.7* EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-11.48* AbsLymp-2.29 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.07
___ 05:00AM   PLT COUNT-199
___ 05:00AM   ___ PTT-21.6* ___

INTERIM LABS:
=============
___ 06:47AM BLOOD WBC-8.6 RBC-4.30 Hgb-12.0 Hct-38.6 MCV-90 
MCH-27.9 MCHC-31.1* RDW-15.4 RDWSD-49.2* Plt ___
___ 06:31AM BLOOD WBC-8.2 RBC-4.22 Hgb-11.7 Hct-38.6 MCV-92 
MCH-27.7 MCHC-30.3* RDW-15.2 RDWSD-50.2* Plt ___
___ 06:39AM BLOOD WBC-10.7* RBC-4.30 Hgb-11.8 Hct-39.1 
MCV-91 MCH-27.4 MCHC-30.2* RDW-15.3 RDWSD-50.6* Plt ___
___ 06:47AM BLOOD ALT-124* AST-136* LD(LDH)-235 
AlkPhos-111* TotBili-0.2
___ 06:31AM BLOOD ALT-151* AST-158* AlkPhos-111* 
TotBili-<0.2
___ 06:39AM BLOOD ALT-136* AST-106* AlkPhos-110* 
TotBili-0.2

DISCHARGE LABS:
================
___ 06:20AM BLOOD WBC-11.2* RBC-4.07 Hgb-11.4 Hct-37.1 
MCV-91 MCH-28.0 MCHC-30.7* RDW-15.5 RDWSD-51.2* Plt ___
___ 06:20AM BLOOD ___ PTT-22.3* ___
___ 06:20AM BLOOD Glucose-88 UreaN-32* Creat-0.7 Na-144 
K-4.2 Cl-110* HCO3-25 AnGap-9*
___ 06:20AM BLOOD ALT-85* AST-42* LD(LDH)-180 AlkPhos-106* 
TotBili-0.2
___ 06:20AM BLOOD Albumin-3.3* Calcium-9.0 Phos-3.2 Mg-1.7

IMAGING:
========
LUMBO-SACRAL SPINE (AP & LAT) ___
IMPRESSION: 
1. Similar destructive changes of the L2 and L3 vertebral bodies 
with  worsening collapse when compared to the prior CT from 
___ but unchanged from the recent MRI, compatible with 
known osteomyelitis/discitis. 
2. Status post L3 laminectomy, T11-L5 posterior fusion and L5-S1 
fusion with interbody spacer device without hardware 
complications or alignment change. 

CT L-SPINE W/O CONTRAST ___
IMPRESSION: 
1. Worsening collapse of the L2-L3 vertebral bodies consistent 
with known 
extensive discitis/osteomyelitis.  Foci of gas within vertebral 
bodies has 
decreased from prior exam. 
2. Bilateral psoas calcified collections have decreased in size 
from prior 
exam. 
3. Stable post L3 laminectomy, T11 through L5 posterior spinal 
fusion, and 
L5-S1 fusion with interbody spacer device with no hardware 
complications. 

US LOWER BACK, SOFT TISSUE LEF ___
IMPRESSION:  
Large 10.9 x 1.5 x 3.7 cm complex fluid collection, difficult to 
ascertain 
relationship with the L3 laminectomy site, could represent 
normal postoperative changes, liquified hematoma or seroma, 
overall unchanged.  
Although there are no sonographic findings of superimposed 
infection, this 
should be clinically excluded.  If a CSF leak is of high 
clinical suspicion, Findings may be better assessed by MRI. 

US LOWER BACK, ___ GUIDED ASPIRATION/DRAINAGE ___
TECHNIQUE:  The risks, benefits, and alternatives of the 
procedure were 
explained to the patient.  After a detailed discussion, informed 
written 
consent was obtained.  A pre-procedure timeout using three 
patient identifiers was performed per ___ protocol. 
  
The patient was placed in a right lateral decubitus position on 
the US scan table. Limited preprocedure ultrasound was performed 
to localize the 
collection.  Based on the ultrasound findings an appropriate 
skin entry site for the aspiration was chosen.  The site was 
marked.  Local anesthesia was administered with 1% Lidocaine 
solution. 
  
Using continuous sonographic guidance, an 18 gauge spinal needle 
was inserted into the collection. 3 cc of serous fluid was 
aspirated.  Due to the loculated nature of the collection, no 
more fluid could be aspirated. 
  
Approximately 3 cc of serous fluid was aspirated with a sample 
sent for 
microbiology evaluation.  Sterile dressing was applied. 
  
The procedure was tolerated well, and there were no immediate 
post-procedural complications. 
  
SEDATION:  Moderate sedation was not provided 
  
FINDINGS:  
Approximately 3 cc of serous fluid was aspirated. 
  
IMPRESSION:  
Successful aspiration of the superficial paraspinal lower back 
collection.  Sample was sent for microbiology evaluation. 

MICRO:
=====
___ ABSCESS GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY; FUNGAL 
CULTURE-PRELIMINARY - NO GROWTH
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
NO GROWTH
___ URINE URINE CULTURE-FINAL NO GROWTH
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
NO GROWTH
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
NO GROWTH

 
Brief Hospital Course:
___ with history of rheumatoid arthritis (on daily prednisone) 
and history of IV drug use (previously on suboxone), with recent 
admission in ___ for L2 epidural abscess, osteomyelitis, and 
discitis, s/p robotic laminectomy, washout, and fusion, who 
initially presented to an outside hospital with fevers and lower 
extremity weakness, subsequently transferred to ___, found to 
have L2-L3 discitis with concern for persistent spinal 
infection, ultimately discharged home against medical advice on 
___.

ACTIVE ISSUES:
==============
# L2-L3 Discitis with likely persistent spinal infection 
Initially presented to outside hospital with fevers and lower 
extremity pain/weakness. Underwent MRI that showed L2-L3 
discitis and several small areas of calcification vs. fluid 
collections in the psoas muscle, but with no drainable sites. 
After extensive review of imaging and discussion with both ID 
and orthopedic spine team, the decision made to keep existing 
hardware in place and defer surgical management. An ultrasound 
of her prior incision was obtained which showed liquefied 
hematoma vs. seroma.  ID recommended drainage for which ___ was 
consulted and performed drainage on ___ NSGY did not feel she 
required open surgical drainage. ID recommended treatment with 
prolonged course of vancomycin ___ weeks total) followed by 
suppressive treatment with TMP-SMX DS 1 tab BID indefinitely. 
The team recommended discharge to rehab to ensure patient 
received the appropriate treatment given concern that during her 
prior course of vancomycin, surveillance labs were not reliable 
obtained; however, patient declined.  Ms. ___ left against 
medical advice on ___ and expressed her plan to leave ___ 
___ and represent to ___ to receive remainder of her 
care.  A PICC was pulled before discharge on ___. She was 
provided with a prescription for TMP-SMX 1 DS tab BID.  Her 
outpatient ID doctor was notified of her leaving ___ and 
discharge summary faxed to office.  She should follow up with 
NSGY upon discharge.  She should follow up with ID upon 
discharge.  Cultures from her US guided aspiration from ___ 
were pending at time of leaving hospital. 

# ___, resolved
Mild pre-renal ___, with peak Cr of 0.9 (from baseline of 
0.5-0.6). Improved with hydration. 

# Opioid use disorder
Previously on suboxone but self-discontinued due to cost. Would 
be interested in re-starting this if it became more affordable. 
Social work was consulted during admission. Was not discharged 
from ___ on narcotics. 

# Transaminitis
Mild. Felt secondary to known Hepatitis C infection, for which 
the patient has not yet received treatment. Needs evaluation for 
treatment. 

CHRONIC ISSUES
===============
# Rheumatoid arthritis
Maintained on chronic prednisone 60mg daily. Has not yet 
established care with rheumatology. Continued prednisone, 
pantoprazole 40mg daily, Vit D 800 IU daily, calcium carbonate 
1000mg qd and Bactrim daily for PJP prophylaxis. 

# Anxiety: Continued home clonazepam 1MG BID. Was not prescribed 
with BDZ upon discharge from ___. 

# COPD: Treated with Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN 
SOB. 

# Tobacco abuse: Treated with nicotine Patch 21 mg/day TD DAILY.

# GERD: Continued pantoprazole 40mg daily.

# ADD: Continued home MethylPHENIDATE (Ritalin) 10 mg PO/NG BID.

# HTN: Continued home AmLODIPine 10mg daily and labetaolol 100mg 
BID.

TRANSITIONAL ISSUES:
======================
[] Discharged against medical advice
[] Ensure outpatient follow-up with outpatient hepatologist in 
___ for untreated Hepatitis C 
[] Ensure outpatient follow-up with rheumatology for severe 
rheumatoid arthritis requiring high dose of chronic prednisone 
[] Ensure NSGY follow up
[] Ensure ID follow up Dr. ___ 
___ and Travel Medicine)
[] Discharge antibiotic regimen: Given left AMA, given 1 DS 
tablet bactrim BID for bridge treatment; Optimal treatment is: 
IV vancomycin 750 mg q12h x 6 weeks followed by indefinite oral 
abx suppression with SMX/TMP 1 DS TWICE DAILY (pt was prescribed 
this the last time, but she reports taking once daily) or 
levofloxacin 750 mg daily for suppression, and Bactrim 1 DS 
daily for pcp ___.
[] Discharged with walker

# CODE: DNR/DNI
# CONTACT: ___ (mother) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Baclofen 10 mg PO TID 
3. ClonazePAM 1 mg PO BID 
4. Gabapentin 200 mg PO TID 
5. Labetalol 100 mg PO BID 
6. MethylPHENIDATE (Ritalin) 10 mg PO BID 
7. Nortriptyline 10 mg PO DAILY 
8. PredniSONE 60 mg PO DAILY 
9. Calcium Carbonate 1000 mg PO DAILY osteoporosis ppx in 
setting of prednisone 
10. Lidocaine 5% Patch 1 PTCH TD QAM back pain  
11. OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
12. Vitamin D 800 UNIT PO DAILY 
13. albuterol sulfate 90 mcg/actuation inhalation PRN sob 
14. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tab-cap by 
mouth twice a day Disp #*60 Tablet Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation PRN sob  
3.  amLODIPine 10 mg PO DAILY  
4.  Baclofen 10 mg PO TID  
5.  Calcium Carbonate 1000 mg PO DAILY osteoporosis ppx in 
setting of prednisone  
6.  ClonazePAM 1 mg PO BID  
7.  Gabapentin 200 mg PO TID  
8.  Labetalol 100 mg PO BID  
9.  Lidocaine 5% Patch 1 PTCH TD QAM back pain   
10.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
11.  Nortriptyline 10 mg PO DAILY  
12.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate  
13.  PredniSONE 60 mg PO DAILY  
14.  Vitamin D 800 UNIT PO DAILY  
15.DME
Rolling walker 
Dx: L2-L3 Discitis 
Prognosis: Good
___: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
L2-L3 Discitis 
Large 10.9 x 1.5 x 3.7 cm complex fluid collection, difficult to 
ascertain relationship with the L3 laminectomy site 

SECONDARY DIAGNOSIS:
=====================
Rheumatoid arthritis 
Chronic pain
Hypertension
Opioid use disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital due to concern for an 
infection in your spine. 

In the hospital, you received IV antibiotics to treat your 
infection. Your MRI was reviewed with the radiologist, 
infectious disease doctors, and spine doctors, who all felt that 
you did not need a surgical procedure to treat your infection. 
You had an ultrasound of your incision which indicated that 
there was not a superimposed infection. 

You left the hospital against medical advice.  You had the 
capacity to make this decision.  You understood the risks of 
leaving the hospital including worsening spinal infection which 
could compromise your spinal cord, leading to paralysis or death 
or inability to walk.  You also may have a leak of your spinal 
fluid. 

Please take 1 tablet of Bactrim twice daily until you follow up 
with your doctors.

When you leave the hospital, you should continue taking all your 
medications, as prescribed. Please also attend all your 
follow-up appointments. 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___